Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
"I am here to stay, this is my new address"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo man with a history of schizoaffective disorder who was 
transferred to Deaconess ___ for bizzarre behavior and paranoid 
ideation after being cleared from medicine for improving 
Rhabdomyolysis. 
The patient presented to the ___ ED after having eloped from 
___ on ___ where again he was being treated for 
rhabdomyolysis. The patient reported that he walked to ___ 
and back because "I had forgotten something at my old address 
but I don't know what".
The patient reported that he returned to the hospital because "I
wanted my meal, but I didn't make it back on time so now I had 
to
wait for you for 5 hours". The patient also reported that "all I
want is my private room and we'll be fine". He stated that from
now on his new address will be that of the hospital because he 
is
moving in. He also stated that he is a "hermit" for all his life
and doesn't like women or men, "and they don't like me". The
patient reports that he is only close to "god and Jesus Christ
because I am a born again ___ and ___ not". When asked
further questions regarding his mood or if there has been
anything else bothering him the patient repeats "now did I say
that?". 
The patient had been admitted initially to ___ 11 on ___ 
after he was
found by police underneath a car. The patient was diagnosed with
hyponatremia, hypothermia and rhabdomyolysis. While on ___ 11 
he had
exhibited bizzarre behavior and had been refusing treatment
initially and was evaluated by the Psychiatry Consultation
service. The patient eloped from ___ 11 on ___ and walked to 
___ and then presented back to the ED. 

 
Past Medical History:
denied
 
Social History:
___
Family History:
denied
 
Physical Exam:
MENTAL STATUS EXAM 
     APPEARANCE & FACIAL EXPRESSION: the patient is a ___ yo man
who appears his stated age. He is dressed in a hospital gown and
is inappropriately exposing himself through out the interview.
The patient has continuous grimacing and abnormal facial
movements as if exagerating his facial expressions purposefully
     POSTURE: lying in bed, exposing himself
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): only facial
movements are of note.
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE):Uncooperative,
unwilling to answer a lot of questions stating constantly 
"you've
asked me 20 questions already"
     SPEECH: Regular rate, occasionally gets loud and starts
yelling.
     MOOD: "I am not a doctor ___ can't judge my mood"
     AFFECT: Labile, easily irritated
     THOUGHT FORM: The patient is very concrete; when asked what
brought him to ED "my own two feet".  He has loose associations,
when asked how this hospitalization can help him he starts
talking about being in the military and that now he is a hermit. 

     THOUGHT CONTENT: He is preoccupied with religion; 
"Allergies
are against my religion". He reports being paranoid against the
police, but when asked why he states "why not?" "they bring me 
in
everytime but I have not committed a crime"
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS): The patient
denied any auditory or visual hallucinations. 
     NEUROVEGETATIVE SYMPTOMS: The patient refused to answer
these questions, constantly stating "now did I say that?"
     SUICIDALITY/HOMICIDALITY: The patient states "I am not
suicidal and I am not homicidal"
     INSIGHT AND JUDGMENT: poor, when asked what he wants from
this hospitalization he reports "a private room and my meal"
     COGNITIVE ASSESSMENT:
          SENSORIUM: Alert and awake
          ORIENTATION: Oriented x 3
Pt refused to answer any further questions of the Cognitive
assessment.

 
Pertinent Results:
___ 09:50AM BLOOD WBC-7.3 RBC-4.20* Hgb-12.1* Hct-38.1* 
MCV-91 MCH-28.9 MCHC-31.8 RDW-13.3 Plt ___
___ 04:45PM BLOOD WBC-7.3 RBC-4.10* Hgb-11.7* Hct-36.6* 
MCV-89 MCH-28.5 MCHC-31.9 RDW-13.4 Plt ___
___ 09:50AM BLOOD Glucose-121* UreaN-13 Creat-1.0 Na-139 
K-3.9 Cl-102 HCO3-28 AnGap-13
___ 04:45PM BLOOD Glucose-101 UreaN-8 Creat-0.9 Na-140 
K-4.7 Cl-103 HCO3-27 AnGap-15
___ 09:50AM BLOOD CK(CPK)-2142*
___ 04:45PM BLOOD ALT-48* AST-33 LD(LDH)-327* CK(CPK)-263* 
AlkPhos-138* TotBili-0.2
___ 04:45PM BLOOD Albumin-4.0 Calcium-9.6 Phos-3.1 Mg-2.0
 
Brief Hospital Course:
This ___ yo man with history of schizoaffective disorder was 
admitted to the inpatient psychiatric unit for bizzare behavior 
and paranoia. The patient was started on Seroquel XR 400mg PO HS 
which was titrated up to 800mg PO HS, and ativan 1mg PO BID. The 
patient was isolateive and remained in his room. The patient was 
guarded with the team and stated on multiple occasions "I don't 
have to tell you about that". The patient's seroquel was 
titrated up and he continued receiving the ativan. On day three 
the patient reported that he is unwilling to leave the hospital 
until his check arrives in 1 month. He believes that someone 
stole his last check and if the staff is able to track it down 
only then will he leave. The patient stated that he was still 
living with his uncle ___ ___ 
recently and thinks that he might know where his check is. Upon 
admission the patient had been refusing labs and vitals, 
however, he agreed to one lab draw on day three of 
hospitalization. His labs showed improvement, and his CK dropped 
to 263 from 1131. The patient continued to be extremely paranoid 
and psychotic on day four of hospitalization, and his 
medications were changed to Abilify 15mg PO liquid HS and 
Klonopin 1mg PO BID, the ativan and seroquel were discontinued. 
The patient was able to contact his uncle and locate his check 
on the fifth day of hospitalization and submitted a three day 
notice after that. When the patient's uncle was contacted he 
reported that his nephew had been missing for about 3 weeks and 
had been doing poorly the last time he saw him. The uncle 
reported that the patient had been a bright young man with no 
mental problems until after he came out of the Marines in his 
early ___. He reported "I want to go home because I need to 
sleep". The patient was willing to continue his medications upon 
discharge stating that "you're the doctor and ___ am the patient, 
just write how many pills and what time". The patient is willing 
to see Dr. ___ as a psychiatrist after he is discharged. On 
day 7 of hospitalization the patient was found to be ready for 
discharge. 
 
Medications on Admission:
Medications on Admission: None

Medications upon transfer from medicine:
1. Haloperidol Lactate 5 mg/mL Solution Sig: Five (5) mg 
Injection Q4H (every 4 hours) as needed for agitation.  
2. Lorazepam 2 mg/mL Syringe Sig: One (1) mg Injection Q4HRS () 
as needed for agitation.  
3. Benztropine 1 mg/mL Solution Sig: One (1) mg Injection every 
four (4) hours as needed for give when haldol administered.  
4. Olanzapine 10 mg Tablet, Rapid Dissolve Sig: Three (3) 
Tablet, Rapid Dissolve PO DAILY (Daily). 
 
Discharge Medications:
1. Aripiprazole 15 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*0*
2. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: schizoaffective disorder - manic type
Axis II: deferred
Axis III: HTN, DM-II (per reports)

 
Discharge Condition:
stable for discharge

 
Discharge Instructions:
Please return to the ED if you feel suicidal or homicidal or if 
your symptoms return or worsen
 
Followup Instructions:
___